US07544697B2
A solution of trifluoroacetic anhydride (3.93 mL, 27.8 mmol) in dichloromethane (51 mL) was added slowly to a 0° C. solution of tert-butyl 2-[3-(aminocarbonyl)-1-propyl-1H-pyrazol-5-yl]-1,1-dimethylethylcarbamate (8.21 g, 25.3 mmol) and triethylamine (10.6 mL, 75.9 mmol) in dichloromethane (51 mL). After the addition was complete, the cooling bath was removed and the solution was stirred for 90 minutes. The solution was transferred to a separatory funnel and washed with 2 M aqueous sodium carbonate (200 mL). The aqueous layer was extracted twice with chloroform. The organic layers were combined, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to yield an off white solid that was recrystallized from 10% ethyl acetate in hexanes, isolated by filtration, and dried to yield 6.77 g of tert-butyl 2-(3-cyano-1-propyl-1H-pyrazol-5-yl)-1,1-dimethylethylcarbamate as a white crystals, mp 115-116° C. MS (ESI) m/z 307 (M+H)+; Anal. Calcd for C16H26N4O2: C, 62.72; H, 8.55; N, 18.28. Found: C, 62.61; H, 8.46; N, 18.52.

reactant | trifluoroacetic anhydride | 27.8 mmol, 3.93 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | tert-butyl 2-[3-(aminocarbonyl)-1-propyl-1H-pyrazol-5-yl]-1,1-dimethylethylcarbamate | 25.3 mmol, 8.21 g | NC(=O)C1=NN(C(=C1)CC(C)(C)NC(OC(C)(C)C)=O)CCC | C16H28N4O3
reactant | triethylamine | 75.9 mmol, 10.6 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 51 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 51 mL | ClCCl | CH2Cl2
product | tert-butyl 2-(3-cyano-1-propyl-1H-pyrazol-5-yl)-1,1-dimethylethylcarbamate | 6.77 g | C(#N)C1=NN(C(=C1)CC(C)(C)NC(OC(C)(C)C)=O)CCC | C16H26N4O2
